US08202865B2
Step 4: Methyl 4-isopropoxy-3-(methoxymethyl)benzoate
Methyl 4-hydroxy-3-(methoxymethyl)benzoate (9.50 g; 48.42 mmol; 1 eq.) was dissolved in DMF (142.50 mL). Then K2CO3 (26.77 g; 193.68 mmol; 4 eq.) and 2-bromopropane (18.18 mL; 193.68 mmol; 4 eq.) were added to the reaction mixture. It was heated to 90° C. for 3 hours. The reaction mixture was cooled to RT and diluted with EtOAc. It was washed with water (3×), brine, dried over MgSO4 and concentrated affording the title compound as a yellow oil (11.35 g, 98%). 1H NMR (DMSO-d6, 300 MHz) δ 7.95-7.84 (m, 2H), 7.13-7.11 (d, J=8.63 Hz, 1H), 4.81-4.69 (sept, J=6.07 Hz, 1H), 4.39 (s, 2H), 3.81 (s, 3H), 3.36 (s, 3H), 1.31-1.29 (d, J=6.01 Hz, 6H). LC/MS (Method B): 239.2 (M+H)+. HPLC (Method A) Rt 4.25 min (Purity: 95.8%).

reactant | Methyl 4-hydroxy-3-(methoxymethyl)benzoate | 48.42 mmol, 9.50 g, 1 eq. | OC1=C(C=C(C(=O)OC)C=C1)COC | C10H12O4
reactant | K2CO3 | 193.68 mmol, 26.77 g, 4 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromopropane | 193.68 mmol, 18.18 mL, 4 eq. | BrC(C)C | C3H7Br
solvent | DMF | 142.50 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 4-isopropoxy-3-(methoxymethyl)benzoate | 11.35 g, 98% | C(C)(C)OC1=C(C=C(C(=O)OC)C=C1)COC | C13H18O4
